US07285563B2
5-(Aminomethyl)-2-(trifluoromethyl)pyrimidine
To a solution of 5-(azidomethyl)-2-(trifluoromethyl)pyrimidine (Description 120; 660 mg, 3.26 mmol) in anhydrous THF (10 ml) was added triphenylphosphine (1.71 g, 6.52 mmol) and water (0.059 ml, 3.26 mmol) and the resulting mixture stirred at room temperature overnight. The mixture was evaporated and the residue purified by column chromatography on silica elution with 5% MeOH in DCM+0.5% NH4OH to give the title compound (320 mg, 55%) as a pale yellow solid.

reactant | 5-(azidomethyl)-2-(trifluoromethyl)pyrimidine | 3.26 mmol, 660 mg | N(=[N+]=[N-])CC=1C=NC(=NC1)C(F)(F)F | C6H4F3N5
reactant | triphenylphosphine | 6.52 mmol, 1.71 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | water | 3.26 mmol, 0.059 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-(Aminomethyl)-2-(trifluoromethyl)pyrimidine | 320 mg, 55% | NCC=1C=NC(=NC1)C(F)(F)F | C6H6F3N3
